US08138345B2
Preparation of (2-{3-[(R)-2-((R)-1-Phenylethylamino)propyl]phenyl}ethyl)carbamic Acid tert-Butyl Ester
A solution of {(R)-2-[3-(2-aminoethyl)phenyl]-1-methylethyl}-((R)-1-phenylethyl)amine (ca. 6.35 mmol), di-tert-butyldicarbonate (1.41 g, 6.46 mmol) and N,N-diisopropylethylamine (1.50 mL, 8.62 mmol) in DCM (20.0 mL) was stirred at room temperature for about 72 h. Saturated aqueous sodium bicarbonate (20 mL) was added and the resulting mixture was extracted with DCM (2×10 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-5% MeOH in DCM) to give the title compound (1.24 g, 51% yield, 2 steps) as a colorless oil.

reactant | {(R)-2-[3-(2-aminoethyl)phenyl]-1-methylethyl}-((R)-1-phenylethyl)amine | ca. 6.35 mmol | NCCC=1C=C(C=CC1)C[C@@H](C)N[C@H](C)C1=CC=CC=C1 | C19H26N2
reactant | di-tert-butyldicarbonate | 6.46 mmol, 1.41 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 8.62 mmol, 1.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
product | (2-{3-[(R)-2-((R)-1-Phenylethylamino)propyl]phenyl}ethyl)carbamic Acid tert-Butyl Ester | 1.24 g, 51% yield | C(C)(C)(C)OC(NCCC1=CC(=CC=C1)C[C@@H](C)N[C@H](C)C1=CC=CC=C1)=O | C24H34N2O2
